US09023855B2
Intermediate 19. 3-[3-(tert-Butyl-dimethyl-silanyloxy)-propylsulfanyl]-propan-1-ol
A solution of 3,3′-thiodipropanol (900 mg, 6 mmol) in THF (3 ml) was added dropwise to a suspension of sodium hydride (240 mg, 6 mmol) in THF (15 ml) under an atmosphere of N2. The reaction mixture was stirred at RT for 30 mins, then a solution of tert-butyldimethylsilylchloride (900 mg, 6 mmol) in THF (2 ml) was added and stirring was continued for 16 hours. The reaction mixture was partitioned between EtOAc and water. The organic layer was separated, washed with brine, dried (Na2SO4) and evaporated in vacuo. The resulting residue was purified by silica gel chromatography eluting with 20% EtOAc in cyclohexane to give the title compound as a colourless oil (793 mg).

reactant | 3,3′-thiodipropanol | 6 mmol, 900 mg | S(CCCO)CCCO | C6H14O2S
reactant | sodium hydride | 6 mmol, 240 mg | [H-].[Na+]
reactant | tert-butyldimethylsilylchloride | 6 mmol, 900 mg | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 15 ml | C1CCOC1 | C4H8O
solvent | THF | 2 ml | C1CCOC1 | C4H8O
product | 3-[3-(tert-Butyl-dimethyl-silanyloxy)-propylsulfanyl]-propan-1-ol | 793 mg | C(C)(C)(C)[Si](OCCCSCCCO)(C)C | C12H28O2SSi
